US07897607B2
8-(2,4-Dimethylphenyl)-2-methyl-2H-1,4-benzoxazin-3(4H)-one
To a solution of 8-bromo-2-methyl-2H-1,4-benzoxazin-3(4H)-one (1.20 g, 4.96 mmol) in 1,2-dimethoxyethane (50 ml) were added 2,4-dimethylphenylboronic acid (818 mg, 5.45 mmol), tetrakis(triphenylphosphine)palladium(0) (286 mg, 0.245 mmol) and 2M sodium carbonate solution (4.96 ml, 9.92 mmol). The mixture was refluxed for 16 h and diluted with water. The aqueous solution was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and concentrated under vacuum. The residue was purified by column chromatography eluting with 20% ethyl acetate/n-hexane to afford 1.20 g (91%) of the title compound.

reactant | 8-bromo-2-methyl-2H-1,4-benzoxazin-3(4H)-one | 4.96 mmol, 1.20 g | BrC1=CC=CC=2NC(C(OC21)C)=O | C9H8BrNO2
reactant | 2,4-dimethylphenylboronic acid | 5.45 mmol, 818 mg | CC1=C(C=CC(=C1)C)B(O)O | C8H11BO2
reactant | sodium carbonate | 9.92 mmol, 2M, 4.96 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.245 mmol, 286 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-(2,4-Dimethylphenyl)-2-methyl-2H-1,4-benzoxazin-3(4H)-one | 1.20 g, 91% | CC1=C(C=CC(=C1)C)C1=CC=CC=2NC(C(OC21)C)=O | C17H17NO2
